US07632847B2
Biphenyl-2-ylcarbamic Acid 1-[2-({3-[2-(4-Hydroxybenzylamino) ethylcarbamoyl]benzoyl}methylamino)ethyl]piperidin-4-yl Ester
A solution of biphenyl-2-ylcarbamic acid 1-(2-{[3-(2-aminoethylcarbamoyl) benzoyl]methylamino}ethyl)piperidin-4-yl ester (9.31 g, 17.1 mmol; prepared as described in Preparation 8) and 4-hydroxybenzaldehyde (2.30 g, 18.8 mmol, 1.1 eq) in 125 mL MeOH was stirred at room temperature for 2 hours. Na(OAc)3BH (7.26 g, 34.2 mmol, 2.0 eq) was added to the reaction at room temperature in two portions separated in one hour interval. The reaction was stirred for an additional hour before being concentrated under vacuum. The residue was taken up in 100 mL DCM and stirred with 100 mL of 1.0 N HCl for 1 hour. The aqueous phase was adjusted to pH 9 using 10.0 N NaOH. The mixture was stirred for an additional 10 minutes. The organic phase was separated, dried over Na2SO4, filtered and concentrated under vacuum. The crude material was purified using silica gel chromatography (7% MeOH in CH2Cl2 with 1% NH4OH as eluent). The title compound was obtained as an off-white solid (8.08 g, 73%). MS m/z: [M+H+] calcd for C38H43N5O5, 650.34; found, 650.2.

reactant | biphenyl-2-ylcarbamic acid 1-(2-{[3-(2-aminoethylcarbamoyl) benzoyl]methylamino}ethyl)piperidin-4-yl ester | 17.1 mmol, 9.31 g | NCCNC(=O)C=1C=C(C(=O)CNCCN2CCC(CC2)OC(NC2=C(C=CC=C2)C2=CC=CC=C2)=O)C=CC1 | C31H37N5O4
reactant | 4-hydroxybenzaldehyde | 18.8 mmol, 2.30 g, 1.1 eq | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | Na(OAc)3BH | 34.2 mmol, 7.26 g, 2.0 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH | 125 mL | CO | CH4O
product | Biphenyl-2-ylcarbamic Acid 1-[2-({3-[2-(4-Hydroxybenzylamino) ethylcarbamoyl]benzoyl}methylamino)ethyl]piperidin-4-yl Ester | OC1=CC=C(CNCCNC(=O)C=2C=C(C(=O)CNCCN3CCC(CC3)OC(NC3=C(C=CC=C3)C3=CC=CC=C3)=O)C=CC2)C=C1 | C38H43N5O5
